Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
betadine  / Codeine
 
Attending: ___.
 
Chief Complaint:
Left tibial chondrosarcoma recurrance
 
Major Surgical or Invasive Procedure:
Left proximal tibial resection with hinged total knee 
replacement and soleus flap for chondrosarcoma recurrance

 
History of Present Illness:
___ yo with h/o chondrosarcoma recurrence admitted for hinged TKA 
replacement
 
Past Medical History:
Smoker.
 
Physical Exam:
Gen: NAD
Cardiac: RRR by palpation
Pulmonary: no increased WOB
Ext: incision c/d/i, no drainage nor errythema, foot WWP, 
___ pulses. SITLT DP/SP/T. Motor intact ___
 
Brief Hospital Course:
Patient was admitted after uncomplicated hinged L TKA for 
chondrosarcoma recurrance. Pain service was involved for post-op 
pain management which involved an epidural cath, ketamine gtt 
and eventual weaning to PO pain medications by POD3-4. Post 
operative temperatures ranged to ___ for the first several days 
after surgery - extensive work-up including chest XR, DVT 
studies, blood cx, Urine cx and wound aspiration revealed no 
source of infections and by POD7 the fevers dissipated after 
perioperative ancef was discontinued. Infectious disease was 
consulted and felt most likely eitology of fevers was drug 
reaction or herpetic ulcer. By POD7 patient was working with ___, 
pain was controlled on oral pain medications, patient remained 
afebrile, patient was voiding spontaneously and deemed safe for 
discharge to home with close family care and plan for follow up 
as scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 5 mg PO HS Insomnia 
2. Gabapentin 500 mg PO TID 
3. TraMADOL (Ultram) 100 mg PO TID Pain 
4. Acetaminophen 1000 mg PO Q6H:PRN Pain 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H Pain 
2. Gabapentin 800 mg PO TID 
3. Enoxaparin Sodium 40 mg SC Q 24H 
4. Nicotine Patch 14 mg TD DAILY 
5. Zolpidem Tartrate 5 mg PO HS Insomnia 
6. OxyCODONE SR (OxyconTIN) ___ mg PO Q8H Duration: 63 Doses 
30mg 3x/day x3days, 30mg 2x/day x3days, 20mg 2x/day x3days, 10mg 
2x/day x3days, then stop 
RX *oxycodone [OxyContin] 10 mg ___ tablets by mouth As 
instructed Disp #*63 Tablet Refills:*0
7. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth Every 3 hrs Disp 
#*120 Tablet Refills:*0
8. Lorazepam ___ mg PO Q6H:PRN anxiety, muscle spasm 
RX *lorazepam 2 mg 0.5 (One half) tablet by mouth Every 6 hours 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left proximal tibial resection with hinged total knee 
replacement and soleus flap for chondrosarcoma recurrance

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Activity: remain partial weight bearing (50% of your weight) on 
your left lower extremity with your leg fully extended in your 
knee immobilizer at all times when out of bed or sleeping. When 
awake and in bed it is okay to open your knee immobilizer to 
allow your leg to get some fresh air.

Wound care/Bathing: You may shower but keep the incision covered 
with a clean/dry dressing until 7 days after surgery (___), 
at which time you may shower and let the soapy water run over 
the top of your incsion. Pat your wound completely dry after you 
shower and then cover only if needed with a dry/sterile 
dressing. DO NOT take a bath, hottub or go in the pool (ie: do 
not submerge your wound) until otherwise instructed.

Driving: Do not drive while you are taking pain medications or 
if you are in pain. This can slow your reaction time and make 
you distracted. Do not do any tasks that require attention or 
precise balance, drive, operate machinery or drink alcohol while 
taking these medications. 

Medications: Take your pain medications as perscribed. Narcotic 
pain medications can cause constipation, so be sure to drink a 
lot of water and take an over-the-counter stool softner as 
needed. You may also take Tylenol around the clock to decrease 
your need for other pain medications, but be sure not to take 
more than 4 grams of Tylenol each day as it is bad for your 
liver. You do not have to take all of the pain medicine and it 
is ok/expected to decrease the dose and frequency as your pain 
improves. Try to be off of the pain medicine by the time you 
return for your postoperative visit.

Follow up: Follow up as scheduled with Dr ___ Therapy:
Left lower extremity: Partial weight bearing LLE with knee in 
extension in knee immobilizer at all times while out of bed or 
asleep. ___ open front of KI while awake in bed for skin care.

Treatments Frequency:
Site: Left lower extremity incision 
Type: Surgical
Dressing: Gauze - dry
Comment: Change on AM of POD 2 by ___, then daily by RN; please 
overwrap any dressing bleedthrough with ABDs and ACE. ___ leave 
open to air after POD5, keep covered in shower until POD7 after 
which may shower without dressing 

 
Followup Instructions:
___